US07408065B2
6-Chloro-N-(cyclohexylmethyl)quinoline-5-carboxamide
To a solution of 5-bromo-6-chloroquinoline (prepared according to the method of Journal of Heterocyclic Chemistry 1967, 4, 410) (4.0 g), cyclohexanemethylamine (4.2 mL) and triethylamine (2.4 mL) in N-methylpyrrolidinone (40 mL) was added dichlorobis(triphenylphosphine)palladium(II) (1.6 g). The mixture was heated with stirring at 100° C. under a 6 bar pressure of carbon monoxide for 18 hours after which it was cooled and filtered through diatomaceous earth, washing with methanol. The combined organics were concentrated to give a residue which was purified (SiO2, isohexane:ethyl acetate:ammonia in methanol (7 M) 49:49:2 as eluant) to yield the title compound as a solid (4.6 g).

reactant | 5-bromo-6-chloroquinoline | BrC1=C2C=CC=NC2=CC=C1Cl | C9H5BrClN
reactant | cyclohexanemethylamine | 4.2 mL | C1(CCCCC1)CN | C7H15N
reactant | triethylamine | 2.4 mL | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | [C]=O | CO
solvent | N-methylpyrrolidinone | 40 mL | CN1C(CCC1)=O | C5H9NO
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 1.6 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-Chloro-N-(cyclohexylmethyl)quinoline-5-carboxamide | 4.6 g | ClC1=C(C=2C=CC=NC2C=C1)C(=O)NCC1CCCCC1 | C17H19ClN2O
